US08735435B2
A stirred suspension of sodium hydride (60% in oil, 27 mg, 0.68 mmol) in THF (3 mL) was treated at 0° C. with (S)-4-benzyl-2-oxazolidinone (49 mg, 0.27 mmol) dissolved in THF (1 mL), under an atmosphere of N2. The reaction was stirred for 20 min and a solution of 2-(bromomethyl)-1-iodo-4-(trifluoromethyl)benzene (100 mg, 0.27 mmol) in THF (1 mL) was added dropwise. The reaction was stirred at room temperature for 18 h. The reaction was quenched with H2O (1 mL) and partitioned between EtOAc (80 mL) and H2O (25 mL). The aqueous phase was re-extracted with EtOAc (2×20 mL) and the combined organic extracts were washed with brine (30 mL), dried (MgSO4) and concentrated in vacuo to give the crude product. This was purified by flash silica-gel chromatography (0-30% EtOAc in hexanes gradient) to afford (4S)-4-benzyl-3-[2-iodo-5-(trifluoromethyl)benzyl]1,3-oxazolidin-2-one. Rf=0.45 (15% EtOAc/hexanes). LCMS 462 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 8.04 (d, J=8.2 Hz, 1H), 7.54 (br s, 1H), 7.33-7.27 (m, 5H), 7.11-7.10 (m, 2H), 7.32 (m, 1H), 4.80 (d, J=16.0 Hz, 1H), 4.49 (d, J=16.1 Hz), 4.28 (t, J=8.7 Hz, 1H), 4.25 (t, J=9.1, 4.8 Hz, 1H), 3.94 (m, 1H), 3.16 (dd, J=13.5, 4.8 Hz, 1H), 2.73 (dd, J=9.1, 4.4 Hz, 1H).

reactant | sodium hydride | 0.68 mmol, 27 mg | [H-].[Na+]
reactant | (S)-4-benzyl-2-oxazolidinone | 0.27 mmol, 49 mg | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | 2-(bromomethyl)-1-iodo-4-(trifluoromethyl)benzene | 0.27 mmol, 100 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)I | C8H5BrF3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (4S)-4-benzyl-3-[2-iodo-5-(trifluoromethyl)benzyl]1,3-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC1=C(C=CC(=C1)C(F)(F)F)I | C18H15F3INO2
